US04415573
Bis-trimethylsilyl-5-fluorouracil prepared from 5-fluorouracil (10 g) as in Example 1 was reacted with 2-(4-methoxyphenyl)-1,3-dioxolan prepared from p-methoxybenzaldehyde and ethylene glycol, and treated as in Example 8 to give 6.5 g of crystalline 1-[α-(2-hydroxyethoxy)-4-methoxybenzyl]-5-fluorouracil.

reactant | Bis-trimethylsilyl-5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 2-(4-methoxyphenyl)-1,3-dioxolan | COC1=CC=C(C=C1)C1OCCO1 | C10H12O3
reactant | p-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-[α-(2-hydroxyethoxy)-4-methoxybenzyl]-5-fluorouracil | 6.5 g | OCCOC(C1=CC=C(C=C1)OC)N1C(=O)NC(=O)C(=C1)F | C14H15FN2O5
